US07470723B2
To a solution of cyanomethylphosphonic acid diethyl ester (2.1 mL, 13.6 mmol) in anhydrous THF (15 mL) was added lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 13.6 mL, 13.6 mmol) at 0° C. and stirred for 30 min at room temperature followed by addition of benzo[1,3]dioxol-5-yl-(3-methoxy-phenyl)-methanone (1.74 g crude, 6.8 mmol) in THF (15 mL) and refluxed for one hour. The reaction mixture was poured into water (50 mL), extracted with CH2Cl2 (2×50 mL). The combined organic phases were washed with brine (50 mL), dried over MgSO4, and purified via flash column chromatography (EtOAc, Hexane) to give 3-benzo[1,3]dioxol-5-yl-3-(3-methoxy-phenyl)-acrylonitrile as an oil (0.87 g, 46% yield): 1H NMR (DMSO-d6) δ 3.77 and 3.78 (2s, 3H, OCH3), 6.10 and 6.13 (2s, 2H, CH2), 6.23 and 6.27 (2s, 1H, CH), 6.69-7.46 (m, 7H, Ar); 13C NMR (DMSO-d6) δ 55.2, 55.2, 94.4, 95.6, 101.6, 101.8, 107.4, 108.2, 108.3, 109.3, 113.7, 114.6, 115.0, 118.2, 120.9, 121.2, 123.7, 123.8, 129.7, 129.8, 130.6, 131.6, 138.6, 139.6, 147.3, 147.9, 148.5, 149.4, 159.1, 159.2, 160.9, 161.1. LC/MS showed desired peak at 280 for (M+1)+1 positive ion mass.

reactant | cyanomethylphosphonic acid diethyl ester | 13.6 mmol, 2.1 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis(trimethylsilyl)amide | 13.6 mmol, 1.0 M, 13.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzo[1,3]dioxol-5-yl-(3-methoxy-phenyl)-methanone | 6.8 mmol, 1.74 g | O1COC2=C1C=CC(=C2)C(=O)C2=CC(=CC=C2)OC | C15H12O4
reactant | water | 50 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-benzo[1,3]dioxol-5-yl-3-(3-methoxy-phenyl)-acrylonitrile | 0.87 g, 46% yield | O1COC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC=C2)OC | C17H13NO3
